US05958376
N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]-N-hydroxyethylurea
N,N'-Bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)-phenyl]urea (0.216 g, 0.157 mmol) was dissolved in a mixture of water (6 ml) and 2 M aqueous NaOH (0.9 ml) together with 2-bromoethanol (0.067 ml). The mixture was stirred for 20 h, neutralized with a strongly acidic cation exchange resin and evaporated to dryness. Purification using preparative HPLC gave 105 mg (47%) of the product as a white solid.

reactant | N,N'-Bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)-phenyl]urea | 0.157 mmol, 0.216 g | IC1=C(C(=C(C(=C1C(=O)NCCO)I)C(=O)NCC(CO)O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)C(=O)NCCO)I | C27H30I6N6O11
reactant | 2-bromoethanol | 0.067 ml | BrCCO | C2H5BrO
solvent | water | 6 ml | O | H2O
solvent | NaOH | 2 M, 0.9 ml | [OH-].[Na+]
product | N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]-N-hydroxyethylurea | 105 mg, 47% | IC1=C(C(=C(C(=C1C(=O)NCCO)I)C(=O)NCC(CO)O)I)N(C(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)C(=O)NCCO)I)CCO | C29H34I6N6O12
